US06706725B1
b) Dimethyl 3-(3-Bromo-5-thienylmethoxy)phthalate
In a manner similar to that of Example 9(i), by reaction of 20 g (103 mmol) of (3-bromo-5-thienyl)methanol with 21.6 mL (155 mmol) of triethylamine and 8.8 mL (114 mmol) of methanesulphonyl chloride, followed by 500 mg (3.5 mmol) of sodium iodide, 14.3 g (103 mmol) of potassium carbonate and 21.7 g (103 mmol) of dimethyl 4-hydroxyphthalate, the desired product is obtained in the form of orange-coloured crystals (m.p.=65° C.; m=27 g; Y=74%).

reactant | (3-bromo-5-thienyl)methanol | 103 mmol, 20 g | BrC1=CSC(=C1)CO | C5H5BrOS
reactant | triethylamine | 155 mmol, 21.6 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 114 mmol, 8.8 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium iodide | 3.5 mmol, 500 mg | [I-].[Na+]
reactant | potassium carbonate | 103 mmol, 14.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl 4-hydroxyphthalate | 103 mmol, 21.7 g | OC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C10H10O5
product | Dimethyl 3-(3-Bromo-5-thienylmethoxy)phthalate | BrC1=CSC(=C1)COC1=C(C(C(=O)OC)=CC=C1)C(=O)OC | C15H13BrO5S
